US09193733B2
Step B. {3-hydroxy-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile (a mixture of diastereomers)
To {3-{[tert-butyl(diphenyl)silyl]oxy}-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile (2.0 g, 3.0 mmol, a mixture of diastereomers from Step A) ethanol (82 mL) was added 5.0 M sodium hydroxide in water (9 mL, 50 mmol). The reaction was stirred overnight. The reaction mixture was diluted with water and ethanol was removed in vacuo. The aqueous mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water, then brine, dried over sodium sulfate, decanted and concentrated. The product, as a mixture of diastereomers, was used without further purification in Step C. LCMS (M+H)+: 424.2.

reactant | {3-{[tert-butyl(diphenyl)silyl]oxy}-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC(C1)(N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C)CC#N | C38H47N5O2Si2
reactant | sodium hydroxide | 5.0 M | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | water | 50 mmol, 9 mL | O | H2O
solvent | ethanol | 82 mL | C(C)O | C2H6O
product | {3-hydroxy-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | OC1CC(C1)(N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C)CC#N | C22H29N5O2Si
